US06919334B2
2-Nitro-6-oxiranylmethoxy-phenylamine
A solution of 2-amino-3-nitro-phenol (18.0 g, 0.117 mol) and epibromohydrin (21.0 g, 0.15 mol) in DMF (200 mL) containing potassium carbonate (20.7 g, 0.15 mol) was stirred at 70° C. overnight. The mixture was evaporated in vacuo, water was added to the residue and the mixture was then extracted with dichloromethane (2×300 mL), the combined organic layers were washed with saturated sodium chloride (300 mL), dried and concentrated. Purification by flash column chromatography (silica gel, methylene chloride) provided 15.0 g of the title compound as an orange solid. 1H NMR (DMSO-d6): δ 7.60 (dd, 1H); 7.11 (dd, 1H); 7.05 (s, 2H); 6.60 (dd, 1H); 4.40 (dd, 1H); 3.93 (dd, 1H); 3.42 (m, 1H); 2.87 (dd, 1H); 2.75 (dd, 1H).

reactant | 2-amino-3-nitro-phenol | 0.117 mol, 18.0 g | NC1=C(C=CC=C1[N+](=O)[O-])O | C6H6N2O3
reactant | epibromohydrin | 0.15 mol, 21.0 g | C(Br)C1CO1 | C3H5BrO
reactant | potassium carbonate | 0.15 mol, 20.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | 2-Nitro-6-oxiranylmethoxy-phenylamine | 15.0 g | [N+](=O)([O-])C1=C(C(=CC=C1)OCC1OC1)N | C9H10N2O4
